US08067598B2
2-Methyl-5-((E)-2-nitro-vinyl)-thiophene
A solution of 10.3 g (80 mmol) 5-methyl-2-thiophenecarboxaldehyde (commercially available) and 13.5 mL nitromethane in 160 mL methanol was cooled to −5° C. A 50% sodium hydroxide solution (80 mL) was added drop wise maintaining the temperature between 5 and 10° C. (formation of a yellow precipitate). After complete addition the mixture was stirred at 10° C. for 1 h. The suspension was poured onto an ice-cold solution of HCl 37% (340 mL) and water (560 mL). The crude product separated as a yellow solid, which was filtered and dissolved in dichloromethane. The solution was dried over Na2SO4, filtered and concentrated in vacuo. The crude product was purified on a silica eluting with a gradient formed from heptane and ethyl acetate. Evaporation of the product fractions yielded 6.9 g (51%) of the title compound as yellow solid.

reactant | 5-methyl-2-thiophenecarboxaldehyde | 80 mmol, 10.3 g | CC1=CC=C(S1)C=O | C6H6OS
reactant | nitromethane | 13.5 mL | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 80 mL | [OH-].[Na+]
reactant | HCl | 340 mL | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
solvent | water | 560 mL | O | H2O
product | 2-Methyl-5-((E)-2-nitro-vinyl)-thiophene | 6.9 g, 51% | CC=1SC(=CC1)\C=C\[N+](=O)[O-] | C7H7NO2S
